US05885986
A solution of 1.0 g (0.0025 mol) of (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 20 ml of tetrahydrofuran was treated with 5 ml (0.037 mol) of dipropylamine and stirred at 50° for 96 hrs. All volatiles were removed in a water-jet vacuum and the residue was taken up with ethyl acetate and water. The organic phase was dried over magnesium sulphate, concentrated and the residue remaining was chromatographed over silica gel with methylene chloride/methanol 95:5 as the eluent. After recrystallization from ethyl acetate there was obtained 0.67 g (58%) of (S)-8-chloro-1-(4-dipropylaminomethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo-[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in the form of white crystals; m.p. 213°-214° and [α]D20 =-68.5° (MeOH, c=0.8%).

reactant | (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.0025 mol, 1.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CCl)CCC1)=O | C18H14Cl2N4OS
reactant | dipropylamine | 0.037 mol, 5 ml | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (S)-8-chloro-1-(4-dipropylaminomethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo-[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.67 g, 58% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CN(CCC)CCC)CCC1)=O | C24H28ClN5OS
